US06972294B1
(2S)-3-[4-(3,3-Diphenyl-allyloxy)-phenyl]-2-ethoxy-propionic acid ethyl ester
Reaction of 3,3-diphenyl-prop-2-en-1-ol (210 mg, 1.0 mmol), tributylphosphine (303 mg, 1.50 mmol), (2S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester (250 mg, 1.05 mmol) and azodicarboxylic dipiperidide (378 mg, 1.50 mmol) in an identical manner to example 3 gave the title compound (290 mg, 67%).

reactant | 3,3-diphenyl-prop-2-en-1-ol | 1.0 mmol, 210 mg | C1(=CC=CC=C1)C(=CCO)C1=CC=CC=C1 | C15H14O
reactant | tributylphosphine | 1.50 mmol, 303 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (2S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester | 1.05 mmol, 250 mg | C(C)OC([C@H](CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
product | (2S)-3-[4-(3,3-Diphenyl-allyloxy)-phenyl]-2-ethoxy-propionic acid ethyl ester | 290 mg, 67% | C(C)OC([C@H](CC1=CC=C(C=C1)OCC=C(C1=CC=CC=C1)C1=CC=CC=C1)OCC)=O | C28H30O4
